US06867204B2
3-Nitro benzenesulfonyl chloride (122.9 mg, 0.55 mmol) was added in small portions under nitrogen to an ice-cold solution of 4-(3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester (161 mg, 0.504 mmol) and pyridine (88 mg, 1.11 mmol) in dichlormethane (2 mL). After 0.5 hour at ambient temperature, water was added. The organic phase was separated, washed with saturated aqueous solution of sodium bicarbonate (20 mL), dried (Na2SO4) and concentrated to give 4-[4-(3-nitro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl]-piperazine-1-carboxylic acid tert-butyl ester as an oil (260 mg). MS: MH+=505.

reactant | 3-Nitro benzenesulfonyl chloride | 0.55 mmol, 122.9 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 4-(3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.504 mmol, 161 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC=2NCCOC21 | C17H25N3O3
reactant | pyridine | 1.11 mmol, 88 mg | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | dichlormethane | 2 mL | ClCCl | CH2Cl2
product | 4-[4-(3-nitro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl]-piperazine-1-carboxylic acid tert-butyl ester | 260 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC=2N(CCOC21)S(=O)(=O)C2=CC(=CC=C2)[N+](=O)[O-] | C23H28N4O7S
